US05690957
Hexadecyloxyacetic acid 2-(benzyloxy)ethyl ester
To a solution of the carboxyl acid derivative prepared in Reference Example 4 (698 mg) and 2-(benzyloxy)ethanol (710 mg) in dichloromethane (10 ml) was added diisopropylethylamine (2.2 ml), and 2-chloro-1-methylpyridinium iodide (891 mg), successively, and the reaction solution was stirred for 1.5 hours. Water was added to the reaction solution and the solution was extracted with dichloromethane (twice). The organic layer was washed with dilute hydrochloric acid and a saturated aqueous solution of sodium chloride, successively, dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate 10:1) to give the title compound (425 mg) having the following physical data. TLC: Rf 0.63 (n-hexane:ethyl acetate=3:1),

reactant | 2-(benzyloxy)ethanol | 710 mg | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | diisopropylethylamine | 2.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-1-methylpyridinium iodide | 891 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Hexadecyloxyacetic acid 2-(benzyloxy)ethyl ester | 425 mg | C(C1=CC=CC=C1)OCCOC(COCCCCCCCCCCCCCCCC)=O | C27H46O4
